US06492383B1
N-{4-[4-(1H-Indol-5-ylamino)-thieno[3,2-d]pyrimidin-6-yl]-benzyl}-N′,N′-dimethyl-ethane-1,2-diamine
The title compound was prepared from N,N-dimethylethylenediamine and 4-[4-(1H-indol-5-ylamino)-thieno[3,2-d]pyrimidin-6-yl]-benzaldehyde by a procedure analogous to example 17. M.P. 170-183° C.; LC-MS: 443 (MH+); HPLC RT: 3.02 minutes.

reactant | N,N-dimethylethylenediamine | CN(CCN)C | C4H12N2
reactant | 4-[4-(1H-indol-5-ylamino)-thieno[3,2-d]pyrimidin-6-yl]-benzaldehyde | N1C=CC2=CC(=CC=C12)NC=1C2=C(N=CN1)C=C(S2)C2=CC=C(C=O)C=C2 | C21H14N4OS
product | N-{4-[4-(1H-Indol-5-ylamino)-thieno[3,2-d]pyrimidin-6-yl]-benzyl}-N′,N′-dimethyl-ethane-1,2-diamine | N1C=CC2=CC(=CC=C12)NC=1C2=C(N=CN1)C=C(S2)C2=CC=C(CNCCN(C)C)C=C2 | C25H26N6S
